US07705028B2
3c) Methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate
To a solution of [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol (150 mg, 0.503 mmol), methyl 6-(4-hydroxyphenyl)-1-naphthalenecarboxylate (140 mg, 0.503 mmol), triphenylphosphine (145 mg, 0.553 mmol) in dichloromethane (1.5 mL) was added diisopropyl azodicarboxylate (0.099 mL, 0.553 mmol) dropwise. The solution was heated in a microwave reactor at 100° C. for 10 minutes. The product was purified by chromatography (silica gel, 0-15% ethyl acetate in hexanes gradient elution) to afford a white solid (0.069 g, 25%). 1H-NMR (DMSO-d6,) δ 8.77 (d, J=9 Hz, 1H), 8.23-8.20 (m, 2H), 8.09 (d, J=9 Hz, 1H), 7.93 (d, J=11 Hz, 1H), 7.70-7.51 (m, 6H), 6.90 (d, J=9 Hz, 2H), 4.83 (s, 2H), 4.00 (quintet, J=9 Hz, 1H), 3.92 (s, 3H), 2.43-2.31 (m, 4H), 2.10-1.92 (m, 2H). APCI-LCMS m/z 558 (M+H)+.

reactant | [5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methanol | 0.503 mmol, 150 mg | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)CO | C14H13Cl2NO2
reactant | methyl 6-(4-hydroxyphenyl)-1-naphthalenecarboxylate | 0.503 mmol, 140 mg | OC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C18H14O3
reactant | triphenylphosphine | 0.553 mmol, 145 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 0.553 mmol, 0.099 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | Methyl 6-[4-({[5-cyclobutyl-3-(2,6-dichlorophenyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | 0.069 g, 25% | C1(CCC1)C1=C(C(=NO1)C1=C(C=CC=C1Cl)Cl)COC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)C(=O)OC | C32H25Cl2NO4
